US08729081B2
3-(Azepan-1-yl)-N-benzyl-N-methylpropan-1-amine (100 mg) was dissolved in MeOH (20 mL) and to the solution was added 10% Pd/C (50 mg). The reaction mixture was shook under 50 psi hydrogen atmosphere for 2 h. The catalyst was filtered over Cellite and washed with methanol. The filtrated was evaporated to give 3-(azepan-1-yl)-N-methylpropan-1-amine, used without further purification.

reactant | 3-(Azepan-1-yl)-N-benzyl-N-methylpropan-1-amine | 100 mg | N1(CCCCCC1)CCCN(C)CC1=CC=CC=C1 | C17H28N2
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 20 mL | CO | CH4O
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | 3-(azepan-1-yl)-N-methylpropan-1-amine | N1(CCCCCC1)CCCNC | C10H22N2
